US09023847B2
158. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-dimethylamino-1-(2-methoxy-phenyl)-ethyl]-amide
To a 40-mL vial with magnetic stir bar at 25° C. under a nitrogen atmosphere was added 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl chloride (0.26 g, 0.94 mmol) and anhydrous DCM (8 mL). 1-(2-Methoxy-phenyl)-N*2*,N*2*-dimethyl-ethane-1,2-diamine (0.2 g, 1.0 mmol) was then added followed by the diisopropylethylamine (0.6 g, 0.8 mL, 4.7 mmol) and stirring continued×16 hours. The solvent was evaporated under a nitrogen stream and the resulting residue purified via preparative HPLC (0.1% triethylamine/1% acetonitrile mixture in water and methanol) afforded the desired product as a white solid (59.1 mg, 14% yield). LCMS m/e 436 (M+H). 1H NMR (400 MHz, DMSO-d6) ppm 2.12 (s, 6H) 2.25 (dd, J=12.38, 4.27 Hz, 1H) 2.60 (dd, J=12.34, 9.78 Hz, 1H) 3.77 (s, 3H) 5.44-5.52 (m, 1H) 6.41 (dd, J=3.36, 1.18 Hz, 1H) 6.66 (d, J=5.44 Hz, 1H) 6.84 (td, J=7.42, 0.71 Hz, 1H) 6.92-6.97 (m, 1H) 7.16-7.22 (m, 1H) 7.24 (dd, J=7.57, 1.56 Hz, 1H) 7.26-7.28 (m, 1H) 7.39 (d, J=5.39 Hz, 1H) 7.81 (d, J=5.38 Hz, 1H) 7.98 (d, J=5.41 Hz, 1H) 8.23 (d, J=7.92 Hz, 1H) 9.89 (s, 1H) 11.49 (br s, 1H).

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl chloride | 0.94 mmol, 0.26 g | N1C=CC=2C1=NC=CC2NC2=C(SC=C2)C(=O)Cl | C12H8ClN3OS
reactant | 1-(2-Methoxy-phenyl)-N*2*,N*2*-dimethyl-ethane-1,2-diamine | 1.0 mmol, 0.2 g | COC1=C(C=CC=C1)C(CN(C)C)N | C11H18N2O
reactant | diisopropylethylamine | 4.7 mmol, 0.8 mL, 0.6 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-dimethylamino-1-(2-methoxy-phenyl)-ethyl]-amide | 59.1 mg, 14% yield | CN(CC(C1=C(C=CC=C1)OC)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2)C | C23H25N5O2S
